US08703922B2
Synthesis of mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)dipentaerythritol
0.37 g (60%, 9.2 mmol) of sodium hydride was added to a solution of 2.35 g (9.24 mmol) of dipentaerythritol in dry N,N-dimethylformamide (6 mL) with cooling on ice. After the mixture was stirred for 1 hour at 50° C., the above (5,9,13,17-tetramethyloctadec-4-enyl)tosylate was added dropwise thereto, with additional stirring for 20 hours at 60° C. After addition of water at 0° C., the reaction mixture was extracted with ethyl acetate. The extract was washed with water, 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (methanol/methylene chloride mixture) to obtain 494 mg of the title compound (19% yield in 2 steps) as a white solid. The results of NMR analysis of the thus obtained compound are as shown below.

reactant | sodium hydride | 9.2 mmol, 0.37 g | [H-].[Na+]
reactant | dipentaerythritol | 9.24 mmol, 2.35 g | OCC(CO)(COCC(CO)(CO)CO)CO | C10H22O7
reactant | (5,9,13,17-tetramethyloctadec-4-enyl)tosylate | CC(=CCCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(CCCC(C)C)C)C | C29H50O3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)dipentaerythritol | 494 mg, 19% yield | CC(=CCCCOCC(CO)(COCC(CO)(CO)CO)CO)CCCC(CCCC(CCCC(C)C)C)C | C32H64O7
